US03948854
30.4 g. of salicylic acid hydrazide are dissolved in 200 ml of dimethylacetamide and 16 g of pyridine and 22 g of chloroformic acid ethyl ester are then added simultaneously over the course of 30 minutes. Thereafter the reaction mixture is heated to 80°-90° C for 5 hours whilst stirring and is then cooled to room temperature, and about 500 ml of water are added carefully. Hereupon the N-salicyloyl-hydrazine-carboxylic acid ethyl ester produced (Stabiliser No. 1) separates out as a micro-crystalline precipitate. The compound is isolated and is purified by washing with water and recrystallised from ethanol. Melting point 126° C.

reactant | salicylic acid hydrazide | C(C=1C(O)=CC=CC1)(=O)NN | C7H8N2O2
reactant | pyridine | 16 g | N1=CC=CC=C1 | C5H5N
reactant | chloroformic acid ethyl ester | 22 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | water | about 500 ml | O | H2O
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
product | N-salicyloyl-hydrazine-carboxylic acid ethyl ester | C(C)OC(=O)N(N)C(C=1C(O)=CC=CC1)=O | C10H12N2O4
